US08084448B2
B. 1-Benzyloxymethyl-1H-pyrazole-3-boronic Acid
To a solution of 1-benzyloxymethyl-1H-pyrazole (200 mg, 1.06 mmol) in THF (5 mL) at 0° C. is added n-BuLi (0.51 mL of 2.5M in THF, 1.28 mmol) and the mixture is stirred at 0° C. for 30 min. To this is added trimethyl borate (551 mg, 5.3 mmol) dropwise then the mixture is allowed to warm to RT overnight. The light yellow solution is acidified with 1N HCl (12.8 mL) and the THF is removed under reduced pressure. The aqueous phase is purified by reverse phase MPLC using a gradient of 0-60% MeCN/water as eluent. The solvent is concentrated until a precipitate forms. The mixture is cooled to 0° C. and the solid filtered to give the title compound.

reactant | 1-benzyloxymethyl-1H-pyrazole | 1.06 mmol, 200 mg | C(C1=CC=CC=C1)OCN1N=CC=C1 | C11H12N2O
reactant | n-BuLi | 1.28 mmol, 2.5M, 0.51 mL | [Li]CCCC
reactant | trimethyl borate | 5.3 mmol, 551 mg | B(OC)(OC)OC | C3H9BO3
reactant | HCl | 1N, 12.8 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-Benzyloxymethyl-1H-pyrazole-3-boronic Acid | C(C1=CC=CC=C1)OCN1N=C(C=C1)B(O)O | C11H13BN2O3
